US07935688B2
(1) Synthesis of (R)-t-butoxycarbonylamino-(4-chloro-phenyl)-acetic Acid Methyl Ester
A 0.5 N potassium bisulfate aqueous solution (7.9 mL) was added to a suspension of dicyclohexylammonium (R)-t-butoxycarbonylamino-(4-chloro-phenyl)acetate (605.6 mg, 1.30 mmol) in ether (16 mL), and the mixture was stirred for 10 minutes. Then, the aqueous layer was extracted with ether. The organic layer was washed with water and then brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was dissolved in benzene (3.6 mL) and methanol (1.8 mL). A solution of trimethylsilyldiazomethane in ether (2 M, 0.71 mL, 1.43 mmol) was added dropwise under cooling with ice, and then the mixture was stirred for 10 minutes. The reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=4/1) to give the title compound (378.9 mg, 97%).

reactant | potassium bisulfate | 0.5 N, 7.9 mL | S([O-])(O)(=O)=O.[K+]
reactant | dicyclohexylammonium (R)-t-butoxycarbonylamino-(4-chloro-phenyl)acetate | 1.30 mmol, 605.6 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)[O-])C1=CC=C(C=C1)Cl.C1(CCCCC1)[NH2+]C1CCCCC1
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | ether | 16 mL | CCOCC | C4H10O
solvent | ether | 1.43 mmol, 2 M, 0.71 mL | CCOCC | C4H10O
product | (R)-t-butoxycarbonylamino-(4-chloro-phenyl)-acetic Acid Methyl Ester | 378.9 mg, 97% | COC([C@@H](C1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C14H18ClNO4
